US05728867
Preparation of 3-(7-isobutyl-1-methylazulen-4-yl)butyl 3-butenecarboxylate
10.0 g (0.07 mol) of crotonyl chloride were added dropwise at room temperature to a solution of 7.26 g (0.03 mol) of 3-(7-isobutyl-1-methylazulen-4-yl)butanol and 30 ml of triethylamine in 100 ml of tetrahydrofuran, and the mixture was stirred for 2 hours. 50 ml of water were then added, and the batch was thoroughly stirred. It was then extracted with methyl t-butyl ether, the extract was dried over sodium sulfate, the solvent was evaporated off, and the residue remaining behind was chromatographed over silica gel (9:1 v/v petroleum ether/ethyl acetate). This gave 8.2 g (88%) of a product, which was uniform according to GC, as a highly viscous blue oil. Physical data: IR (KBr): 2959, 2927 (CH); 1738 (C=O); 1464, 1423, 1388, 1327, 1256, 1173, 921 cm-1. 1H-NMR (CDCl3): δ=1.47 (d, 6H); 2.18 (cm, 2H); 2.65 (s, 3H); 3.08 (m, 3H), 3.20 (t, 2H); 4.18 (t, 2H); 5.18 (m, 2H); 5.94 (m, 1H); 6.95 (d, 1H); 7.28 (bs, 1H); 7.40 (d, 1H); 7.62 (bs, 1H); 8.18 (s, 1H) ppm. 13C-NMR (CDCl3): δ=12.84; 24.71 (2C); 30.18; 34.50; 38.28; 39.23; 64.41; 112.33; 118.36; 124.39; 125.47; 130.49; 133.28; 135.10; 136.42; 136.60; 137.31; 140.04; 147.49; 171.29 ppm. MS: m/e=310.4 (C21H28O2+, 80%)

reactant | crotonyl chloride | 0.07 mol, 10.0 g | C(\C=C\C)(=O)Cl | C4H5ClO
reactant | 3-(7-isobutyl-1-methylazulen-4-yl)butanol | 0.03 mol, 7.26 g | C(C(C)C)C1=CC=C(C2=CC=C(C2=C1)C)C(CCO)C | C19H26O
reactant | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-(7-isobutyl-1-methylazulen-4-yl)butyl 3-butenecarboxylate | C(CC=C)C(=O)OCCC(C)C=1C2=CC=C(C2=CC(=CC1)CC(C)C)C | C24H32O2
